US04062978
A solution of 3-(m-phenoxyphenyl)-butyryl chloride (1 g.) (from the corresponding acid (1 g.) using excess oxalyl chloride in benzene) in ether (20 ml) was added dropwise to a solution of dimethyl copper lithium at -70° C under nitrogen (from methyl lithium (0.2 g.) and cuprous iodide (1 g.)) in ether (50 ml) and the mixture stirred a further 15 minutes at -70° C. Methanol was added to quench the reaction and the mixture was diluted with water, acidified and filtered through a pad of Kieselguhr. The ether layer was washed with sodium carbonate solution and with water, dried over anhydrous magnesium sulphate and evaporated to give a colourless oil. The product was purified by column chromatography to give 4-(m-phenoxyphenyl)-2-pentanone as a colourless oil.

reactant | 3-(m-phenoxyphenyl)-butyryl chloride | 1 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(CC(=O)Cl)C | C16H15ClO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl copper lithium | [Li].C[Cu]C
reactant | Methanol | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-(m-phenoxyphenyl)-2-pentanone | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(CC(C)=O)C | C17H18O2
